US07705025B2
4-[4-(1-Benzoylamino-1-methyl-ethyl)-thiazol-2-yl]-benzoic acid ethyl ester
To a stirring solution of 4-[4-(1-Amino-1-methyl-ethyl)-thiazol-2-yl]-benzoic acid ethyl ester:hydrobromide (11.0 mmol) and n-methylmorpholine (2.0 mmol) in dichloromethane (0.10M), add benzoyl chloride (1.0 mmol) diluted in 2 mL dichloromethane. Stir at room temperature for 20 minutes. Wash the reaction with water while extracting with dichloromethane. Dry the organic layer with sodium sulfate, filter and concentrate in vacuo. Purify via radial chromatography eluting with ethyl acetate and hexane. MS (m/e): 395.2 (M+H)+

reactant | 4-[4-(1-Amino-1-methyl-ethyl)-thiazol-2-yl]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C=1SC=C(N1)C(C)(C)N)=O | C15H18N2O2S
reactant | hydrobromide | 11.0 mmol | Br | BrH
reactant | n-methylmorpholine | 2.0 mmol | CN1CCOCC1 | C5H11NO
reactant | benzoyl chloride | 1.0 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 0.10M | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-[4-(1-Benzoylamino-1-methyl-ethyl)-thiazol-2-yl]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C=1SC=C(N1)C(C)(C)NC(C1=CC=CC=C1)=O)=O | C22H22N2O3S
